US05428158
Dissolve 1-(carbomethoxy)-1-(4-methoxylbenzylthio)cyclopentane (3.3 mmol) in 95% ethanol (18 mL), water (9 mL), and tetrahydrofuran (10 mL). Treat with potassium hydroxide (0.91 g, 16 mmol). Stir at room temperature for 2 hours and evaporate the solvent in vacuo. Partition between water (50 mL) and ethyl ether (30 mL). Acidify the aqueous phase with cold concentrated hydrochloric acid and extract with methylene chloride (50 mL). Dry (MgSO4) and evaporate the solvent in vacuo to give 1-(carboxy)-1-(4-methoxybenzylthio)cyclopentane as a pale yellow oil (483 mg, 72%).

reactant | 1-(carbomethoxy)-1-(4-methoxylbenzylthio)cyclopentane | 3.3 mmol | C(=O)(OC)C1(CCCC1)SCC1=CC=C(C=C1)OC | C15H20O3S
reactant | potassium hydroxide | 16 mmol, 0.91 g | [OH-].[K+]
solvent | ethanol | 18 mL | C(C)O | C2H6O
solvent | water | 9 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-(carboxy)-1-(4-methoxybenzylthio)cyclopentane | 483 mg, 72% | C(=O)(O)C1(CCCC1)SCC1=CC=C(C=C1)OC | C14H18O3S
